US05318964
0.284 g of 60% sodium hydride was added to a stirred ice-cold solution of 3.01 g of 1,2-dibenzyl 1-tert.butyl 4-methyl-1,1,2(R)-pentanetricarboxylate in 50 ml of dry dimethylformamide under a nitrogen atmosphere. The mixture was stirred for 30 minutes at 0° and for an additional 1.5 hours at ambient temperature, and again cooled to 0° before the addition of 1.6 g of 4-bromomethyl-1,2-dimethylurazole. The mixture was allowed to return to ambient temperature and was stirred for 3 hours. The volatiles were evaporated under high vacuum and the residue was dissolved in ethyl acetate and washed with 5% aqueous citric acid solution, water and saturated sodium chloride solution. After drying over anhydrous magnesium sulfate, the solvent was evaporated and the residue was purified by flash chromatography on silica gel using hexane/ether (1:1) followed by ether for the elution. There were obtained 2.464 g of 1,2-dibenzyl 1-tert.butyl 4-methyl-1-[(1,2-dimethyl-3,5-dioxo-1,2,4-triazolidin-4-yl)methyl]-1,1,2(R)-pentanetricarboxylate in the form of a colorless oil.

reactant | sodium hydride | 0.284 g | [H-].[Na+]
reactant | 1,2-dibenzyl 1-tert.butyl 4-methyl-1,1,2(R)-pentanetricarboxylate | 3.01 g | CC(C[C@H](C(C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1)C | C27H34O6
reactant | 4-bromomethyl-1,2-dimethylurazole | 1.6 g | BrCN1C(N(N(C1=O)C)C)=O | C5H8BrN3O2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1,2-dibenzyl 1-tert.butyl 4-methyl-1-[(1,2-dimethyl-3,5-dioxo-1,2,4-triazolidin-4-yl)methyl]-1,1,2(R)-pentanetricarboxylate | 2.464 g | CC(C[C@H](C(C(=O)OCC1=CC=CC=C1)(C(=O)OC(C)(C)C)CN1C(N(N(C1=O)C)C)=O)C(=O)OCC1=CC=CC=C1)C | C32H41N3O8
